US03944679
The above aromatic composition of the present process is added in an amount of 1 ppm to the material plan oil of margarin, and margarin is prepared therefrom. A 5 % ethanol solution of the mixture (in the ratio 12:5) of 2-ethyl-4-methyl-7-hydroxyindan-1-one and 3,4,7-trimethylindan-1-one is added to the material oil in an amount to give 10 ppm by weight of said indanone compounds mixture thereto, and margarin is prepared therefrom.

reactant | 2-ethyl-4-methyl-7-hydroxyindan-1-one | C(C)C1C(C2=C(C=CC(=C2C1)C)O)=O | C12H14O2
reactant | 3,4,7-trimethylindan-1-one | CC1CC(C2=C(C=CC(=C12)C)C)=O | C12H14O
solvent | ethanol | C(C)O | C2H6O
product | indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
